US07923450B2
a) Methyl 3-[1-dimethylamino-methylidene]-2-oxo-cycloheptanecarboxylate
Methyl 2-oxo-cycloheptanecarboxylate (51 mg, 0.30 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (85 mg) as a yellow oil which was used directly in the next step. MS ISP (m/e): 226.3 [(M+H)+].

reactant | Methyl 2-oxo-cycloheptanecarboxylate | 0.30 mmol, 51 mg | O=C1C(CCCCC1)C(=O)OC | C9H14O3
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | Methyl 3-[1-dimethylamino-methylidene]-2-oxo-cycloheptanecarboxylate | 85 mg | CN(C=C1C(C(CCCC1)C(=O)OC)=O)C | C12H19NO3
